data/oMe_Silver.jsonl
{"reaction_id": "NR-334_1-c1ccccc1_2-c1ccc2ccccc2c1_3-CC_4-CC","level": "medium","name": "Ritter Reaction","reactants_smiles": ["N#Cc1ccccc1","OC(c1ccc2ccccc2c1)(CC)CC"],"products_smiles": ["C(=O)(NC(c1ccc2ccccc2c1)(CC)CC)c1ccccc1"],"conditions": "H2SO4, H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH2+]C(c1ccc2ccccc2c1)(CC)CC","step_weight": 0,"rationale": "Protonation of the alcohol oxygen increases its leaving group ability by converting OH into water, a much better leaving group under acidic conditions."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[C+](c1ccc2ccccc2c1)(CC)CC","step_weight": 0,"rationale": "Loss of water generates a carbocation stabilized by adjacent alkyl groups through hyperconjugation and inductive effects."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(#[N+]C(c1ccc2ccccc2c1)(CC)CC)c1ccccc1","step_weight": 0,"rationale": "The nitrile nitrogen, being nucleophilic, attacks the carbocation, forming a nitrilium ion stabilized by resonance with the triple bond."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=NC(c1ccc2ccccc2c1)(CC)CC)([OH2+])c1ccccc1","step_weight": 0,"rationale": "Water, activated by the acidic medium, adds to the electrophilic carbon of the nitrilium ion, forming a protonated imidate intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=NC(c1ccc2ccccc2c1)(CC)CC)(O)c1ccccc1","step_weight": 0,"rationale": "Deprotonation of the protonated imidate oxygen restores neutrality, yielding the neutral imidic acid form."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(NC(c1ccc2ccccc2c1)(CC)CC)c1ccccc1","step_weight": 0,"rationale": "Acid-catalyzed tautomerization converts the imidic acid to the more thermodynamically stable amide via proton transfers."}],"description": "Under strong acid, the alcohol is protonated and loses water to form a stable carbocation. The nitrile attacks, forming an iminium intermediate, which is then hydrated and tautomerizes to the amide. Acid catalysis drives each step by stabilizing intermediates and activating electrophiles."}
{"reaction_id": "NR-321_1-c1ccc(OC)cc1_2-c1ccccc1_3-CCOC","level": "easy","name": "Williamson Ether Synthesis","reactants_smiles": ["Oc1ccc(OC)cc1","BrC(c1ccccc1)CCOC","[Na][H]"],"products_smiles": ["C(Oc1ccc(OC)cc1)(c1ccccc1)CCOC"],"conditions": "","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]c1ccc(OC)cc1","step_weight": 0,"rationale": "NaH acts as a strong base, abstracting the alcohol proton due to the high acidity of the O–H bond and forming a resonance-stabilized alkoxide anion."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(Oc1ccc(OC)cc1)(c1ccccc1)CCOC","step_weight": 0,"rationale": "The alkoxide, being a strong nucleophile, attacks the electrophilic carbon of the alkyl bromide in an SN2 fashion, favored by the good leaving ability of bromide and minimal steric hindrance."}],"description": "In the Williamson ether synthesis, an alcohol is first deprotonated by a strong base to form an alkoxide, which is a strong nucleophile. This alkoxide then undergoes an SN2 reaction with an alkyl halide, yielding the ether product efficiently under mild conditions."}
